US07888349B2
mCPBA (2.96 g of 77% purity, 13.2 mmol) was added to a solution of 3-(benzyloxy)-9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline (4.648 g, 11 mmol) in chloroform (20 mL), and the reaction was stirred for 10 minutes. Additional mCPBA (1.5 g) was added and the reaction was monitored for disappearance of the starting substrate by thin-layer chromatography (TLC). Ammonium hydroxide (20 mL) was then added and the reaction was stirred for five minutes before the rapid addition of p-toluenesulfonyl chloride (2.31 g, 12.1 mmol). The reaction was stirred overnight at ambient temperature. The organic layer was separated, washed with ammonium hydroxide, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluting with 2 N ammonia in methanol/chloroform in a 43-minute gradient from 1:99 to 25:75) and recrystallization from isopropanol and dried in a vacuum oven at 65° C. to afford 1.1 g of 3-(benzyloxy)-9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine as brown crystals, mp 235-236° C.

reactant | mCPBA | 13.2 mmol, 2.96 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 3-(benzyloxy)-9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline | 11 mmol, 4.648 g | C(C1=CC=CC=C1)OC1=CC=C2C3=C(C=NC2=C1)N=C1N3CCCN(C1)S(=O)(=O)C | C22H22N4O3S
reactant | mCPBA | 1.5 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Ammonium hydroxide | 20 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 12.1 mmol, 2.31 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(benzyloxy)-9-(methylsulfonyl)-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine | 1.1 g | C(C1=CC=CC=C1)OC1=CC=C2C3=C(C(=NC2=C1)N)N=C1N3CCCN(C1)S(=O)(=O)C | C22H23N5O3S
